US07351709B2
To a stirred solution of (3R)-3-ethyl-7-fluoro-4-(4-methoxybenzoyl)-3,4-dihydroquinoxalin-2(1H)-one (0.21 g, 0.64 mmol) in acetone (5 mL) was added potassium carbonate (0.12 g, 0.87 mmol) followed by iodomethane (0.20 mL, 0.46 g, 3.2 mmol). The reaction vessel was flushed with nitrogen and sealed. The mixture was stirred at room temperature for 16 h, after which time additional iodomethane (0.20 mL, 0.46 g, 3.2 mmol) and potassium carbonate (0.11 g, 0.80 mmol) were added. Stirring was continued at 40° C. for an additional 20 h. The solvent was then evaporated, and the resulting residue was partitioned between water and ethyl acetate, separated, washed with water and dried over magnesium sulfate. Evaporation of the solvent under reduced pressure gave (3R)-3-ethyl-7-fluoro-4-(4-methoxybenzoyl)-1-methyl-3,4-dihydroquinoxalin-2(1H)-one (quantitative) as an oil that was used without further purification. MS (ESI) m/z 343 ([M+H]+); HRMS: calcd for C19H19FN2O3, 342.13804; found (ESI+), 343.14463.

reactant | (3R)-3-ethyl-7-fluoro-4-(4-methoxybenzoyl)-3,4-dihydroquinoxalin-2(1H)-one | 0.64 mmol, 0.21 g | C(C)[C@@H]1C(NC2=CC(=CC=C2N1C(C1=CC=C(C=C1)OC)=O)F)=O | C18H17FN2O3
reactant | potassium carbonate | 0.87 mmol, 0.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 3.2 mmol, 0.20 mL, 0.46 g | IC | CH3I
reactant | iodomethane | 3.2 mmol, 0.20 mL, 0.46 g | IC | CH3I
reactant | potassium carbonate | 0.80 mmol, 0.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | (3R)-3-ethyl-7-fluoro-4-(4-methoxybenzoyl)-1-methyl-3,4-dihydroquinoxalin-2(1H)-one | C(C)[C@@H]1C(N(C2=CC(=CC=C2N1C(C1=CC=C(C=C1)OC)=O)F)C)=O | C19H19FN2O3
